US04505739
7 g (0.05 mole) of 3-amino-5-t-butylpyrazole as prepared in Example 1 and 6 g of triethylamine were dissolved in 50 ml of methylene chloride. To this solution was added dropwise 5.7 g of cyclopropanecarboxylic acid chloride dissolved in 50 ml of carbon tetrachloride. The resulting mixture was allowed to stand over night. Thereafter, water was added thereto whereby crystals were precipitated. The crystals were collected by filtration and washed with water and carbon tetrachloride to obtain 5.3 g of 5-t-butyl-3-cyclopropanecarbonylaminopyrazole.

reactant | 3-amino-5-t-butylpyrazole | 0.05 mole, 7 g | NC1=NNC(=C1)C(C)(C)C | C7H13N3
reactant | triethylamine | 6 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarboxylic acid chloride | 5.7 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-t-butyl-3-cyclopropanecarbonylaminopyrazole | 5.3 g | C(C)(C)(C)C1=CC(=NN1)NC(=O)C1CC1 | C11H17N3O
